US05280032
2-(Imidazol-5-yl)methoxy-1-(1-naphthyl)ethanol was reacted with methyl iodide to obtain oily 2-(1-methylimidazol-5-yl)methoxy-1-(1-naphthyl)ethanol (compound No. 283).

reactant | 2-(Imidazol-5-yl)methoxy-1-(1-naphthyl)ethanol | N1C=NC=C1COCC(O)C1=CC=CC2=CC=CC=C12 | C16H16N2O2
reactant | methyl iodide | CI | CH3I
product | 2-(1-methylimidazol-5-yl)methoxy-1-(1-naphthyl)ethanol | CN1C=NC=C1COCC(O)C1=CC=CC2=CC=CC=C12 | C17H18N2O2
